US03971783
6,7-Dimethoxy-4-(N-methyl-1-[2-pyridyl]prop-2-ylamino)quinazoline
Reaction of 6,7-dimethoxy-4-chloroquinazoline with 2-(2-[N-methylamino]prop-1-yl)pyridine, according to the procedure of Example I, yielded the title compound, isolated as its dihydrochloride dihydrate, m.p. 242°-5°C.

reactant | 6,7-dimethoxy-4-chloroquinazoline | COC=1C=C2C(=NC=NC2=CC1OC)Cl | C10H9ClN2O2
reactant | 2-(2-[N-methylamino]prop-1-yl)pyridine | CNC(CC1=NC=CC=C1)C | C9H14N2
product | 6,7-Dimethoxy-4-(N-methyl-1-[2-pyridyl]prop-2-ylamino)quinazoline | COC=1C=C2C(=NC=NC2=CC1OC)N(C)C(CC1=NC=CC=C1)C | C19H22N4O2
